US05229510
(b) 4-(3,3-Diethyl-4-oxo-1-(phenylmethylaminocarbonyl)-2-(R, S)-azetidinyl)oxy-nitrobenzene
Triethylamine (1.26 mL, 9.1 mmol), 4-dimethylaminopyridine (20 mg, 0.2 mmol), and benzyl isocyanate (1.12 mL, 9.1 mmol) were successively added to a solution of 4-(3,3-diethyl-4-oxo-2-azetidinyl)oxy-nitrobenzene (1.2 gm, 4.6 mmol) in methylene chloride (10 mL). The solution was stirred at room temperature for 1.5 hours, then ethyl acetate (100 mL) was added. The solution was sucessively washed with 1N hydrochloric acid (3×20 mL), 1N sodium bicarbonate solution (3×20 mL), water (20 mL), and saturated salt solution (20 mL), 1N sodium solution was dried over anhydrous sodium sulfate and the solvent removed by rotoevaporated. The product was purified by flash column chromatography on silica gel eluted with 15% ethyl acetate in hexanes and recrystallized from ethyl acetate/hexanes as a white solid (mp. 96°-97° C.; 1.3 gm, 70% yield): 1H-NMR δ (CDCl3) 1.04 (3H, t, J=7 hz), 1.08 (3H, t, J=7 Hz), 1.76-2.10 (4H, m), 4.47 (2H, d, J=6 hz), 5.76 (1H, s), 7.26-7.44 (7H, m), 8.24 (2H, d, J=9 Hz; ir (thin film) 1780, 1720 cm-1.

reactant | Triethylamine | 9.1 mmol, 1.26 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 9.1 mmol, 1.12 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 4-(3,3-diethyl-4-oxo-2-azetidinyl)oxy-nitrobenzene | 4.6 mmol, 1.2 gm | C(C)C1(C(NC1=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC | C13H16N2O4
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 0.2 mmol, 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,3-Diethyl-4-oxo-1-(phenylmethylaminocarbonyl)-2-(R, S)-azetidinyl)oxy-nitrobenzene | 70% yield | C(C)C1(C(N(C1=O)C(=O)NCC1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-])CC | C21H23N3O5
